US07186716B2
A solution of tin (IV) chloride (3.72 g, 5 mmol) in benzene (10 mL) was added dropwise to a mixture of 2-chloronicotinoyl chloride (2.02 g, 11 mmol) and 1H-pyrrole-2-carboxylic acid ethyl ester (0.73 g; prepared as discussed below) in dry benzene (12 mL) at 0° C. The reaction was allowed to warm up slowly to room temperature and stirred 4 hours. The reaction was concentrated, the residue was dissolved in ethyl acetate and washed with brine, dried and concentrated to give 1.53 g of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid ethyl ester as a brown solid.

reactant | tin (IV) chloride | 5 mmol, 3.72 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-chloronicotinoyl chloride | 11 mmol, 2.02 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | 1H-pyrrole-2-carboxylic acid ethyl ester | 0.73 g | C(C)OC(=O)C=1NC=CC1 | C7H9NO2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 12 mL | C1=CC=CC=C1 | C6H6
product | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 1.53 g | C(C)OC(=O)C=1NC(=CC1)C(=O)C=1C(=NC=CC1)Cl | C13H11ClN2O3
